datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:23],111.101936
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:14])([H:12])[H:13],49.7896
[C:0]([C:1]1([H:12])[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:10])[H:11].[H:12],114.750384
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17])[H:16]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([S:8][H:16])([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17],73.22
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([O:18][O:19])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:19][O:18][C:17]([C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26])([H:27])[H:28],85.60464
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:26]([C:25](=[C:24]([H:30])[H:31])[H:32])([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:14])([H:12])[H:13],73.1363
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([C:7](=[C:8]([H:18])[H:19])[H:17])[C:6]1([H:15])[H:16])[H:9],141.126
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])[H:10])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])([H:10])[O:18][O:19])([H:7])([H:8])[H:9],-2.244716
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5]>>[C:0]([C:1]([O:2][H:3])([H:6])[H:7])([H:4])[H:5],18.6188
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0]([C:1]([S:2][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10])[H:6])([H:3])([H:4])[H:5],-4.184
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:10])([H:8])[H:9],32.2586
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:13])[H:7])([H:5])[H:6].[S:12][H:14],66.5256
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][O:9][H:10]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:8][O:9][H:10],68.99416
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[O:17][H:18]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][O:17][H:18],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([S:11][H:17])[C:12](=[S:13])[H:18])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([S:11][H:17])[C:12](=[S:13])[H:18],133.679
